US04220788
11.6 g of 1,3-diaminopropane (0.16 mol) and 2.62 g of Cu-II-acetylacetonate are placed into 100 ml of dimethylformamide, and the whole is heated in an inert atmosphere to 100° C. A solution of 10 g of 2-nitro-2'-hydroxy-5'-methyl-azobenzene in 50 ml of dimethylformamide is then added, and after 3 hours the reaction is finished. The conversion to 2-(2'-hydroxy-5'-methylphenyl)-benzotriazole gives a yield of 64%.

reactant | 1,3-diaminopropane | 0.16 mol, 11.6 g | NCCCN | C3H10N2
reactant | 2-nitro-2'-hydroxy-5'-methyl-azobenzene | 10 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2'-hydroxy-5'-methylphenyl)-benzotriazole | yield of 64% | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
